US09428509B2
4-Amino-3-chloro-N-methylbenzamide
The solution of 4-amino-3-chlorobenzoic acid (1 equiv), EDCI (1.2 equiv), methylamine hydrochloride (1.2 equiv) in DMF (1.5 M) was added sodium bicarbonate (1 equiv). The reaction was stirred at 25° C. for 15 h. The reaction mixture was quenched with saturated aqueous sodium chloride and then extracted with ethyl acetate. The organic phase was combined and washed with saturated aqueous sodium chloride. The organic layer was dried (anhydrous magnesium sulfate), filtered, and concentrated. The crude product was purified by silica gel column chromatography (0-90% ethyl acetate (with 10% 1N ammonia in MeOH) in hexane). Concentration of the desired fractions afforded the title compound (89% yield) as colorless oil; 1H NMR (400 MHz, DMSO-d6) δ ppm 2.67 (d, J=4.29 Hz, 3H) 5.81 (s, 2H) 6.72 (d, J=8.59 Hz, 1H) 7.49 (dd, J=8.39, 2.15 Hz, 1H) 7.67 (d, J=1.95 Hz, 1H) 8.08 (d, J=4.29 Hz, 1H); MS (ESI) m/z 185.0 [M+1]+.

reactant | 4-amino-3-chlorobenzoic acid | 1 equiv | NC1=C(C=C(C(=O)O)C=C1)Cl | C7H6ClNO2
reactant | EDCI | 1.2 equiv | CCN=C=NCCCN(C)C | C8H17N3
reactant | methylamine hydrochloride | 1.2 equiv | Cl.CN
reactant | sodium bicarbonate | 1 equiv | C([O-])(O)=O.[Na+]
solvent | DMF | 1.5 M | CN(C)C=O | C3H7NO
product | 4-Amino-3-chloro-N-methylbenzamide | 89% yield | NC1=C(C=C(C(=O)NC)C=C1)Cl | C8H9ClN2O
